US06495546B1
To a solution of 2-[8-[(2S)-2-hydroxy-3-phenoxypropylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester (3.29 g) and triethylamine (2.55 ml) in tetrahydrofuran (20 ml) was added di-tert-butyl dicarbonate (1.53 g) under ice-cooling, and the mixture was stirred at room temperature for 18 hours. The resulting mixture was poured into saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed (hexane-ethyl acetate) over silica gel to afford 2-[8-[N -tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester (3.61 g).

reactant | 2-[8-[(2S)-2-hydroxy-3-phenoxypropylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester | 3.29 g | C(C)OC(COC=1C=CC2=C(CC(CCC2)NC[C@@H](COC2=CC=CC=C2)O)C1)=O | C24H31NO5
reactant | triethylamine | 2.55 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[8-[N -tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester | 3.61 g | C(C)OC(COC=1C=CC2=C(CC(CCC2)N(C[C@@H](COC2=CC=CC=C2)O)C(=O)OC(C)(C)C)C1)=O | C29H39NO7
